US08487108B2
A solution of (R)-tert-butyl 3-(3-chlorobenzoyl)piperidine-1-carboxylate (1.62 g, 5 mmol) in anhydrous THF (20 mL) under N2 was cooled in a dry ice-acetone bath. The Grignard reagent derived from tert-butyl-(4-chloro-butoxy)-dimethyl-silane (50 mL) prepared above was added dropwise. After addition, the mixture was allowed to warm to rt and stirred for 2 h (monitored by tlc). The reaction was quenched with satd aq NH4Cl (70 mL) and extracted with EtOAc (3×40 mL). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with 10:90 EtOAc/hexane to afford (R)-tert-butyl 3-((S)-5-(tert-butyldimethylsilyloxy)-1-(3-chlorophenyl)-1-hydroxypentyl)piperidine-1-carboxylate (1.65 g, 65%). 1H NMR (400 MHz, CDCl3): 0.02 (s, 6H), 7.30 (d, 2H), 0.85 (s, 9H), 1.47 (s, 9H), 1.92 (m, 3H), 2.52 (m, 3H), 3.56 (m, 2H), 3.63 (m, 2H), 3.97-4.21 (m, 2H), 4.36 (m, 1H), 7.16-7.25 (m, 3H), 7.36 (m, 1H). MS (E/Z): 512 (M+H+)

reactant | (R)-tert-butyl 3-(3-chlorobenzoyl)piperidine-1-carboxylate | 5 mmol, 1.62 g | ClC=1C=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=CC1 | C17H22ClNO3
reactant | tert-butyl-(4-chloro-butoxy)-dimethyl-silane | 50 mL | C(C)(C)(C)[Si](C)(C)OCCCCCl | C10H23ClOSi
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((S)-5-(tert-butyldimethylsilyloxy)-1-(3-chlorophenyl)-1-hydroxypentyl)piperidine-1-carboxylate | 1.65 g, 65% | [Si](C)(C)(C(C)(C)C)OCCCC[C@@](O)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C27H46ClNO4Si
